US08669266B2
(ii) 4-(2-Methylamino-acetyl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 830 mg 4-[2-(Benzyloxycarbonyl-methyl-amino)-acetyl]-piperazine-1-carboxylic acid ethyl ester in 30 ml ethanol were added 100 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (3 bar) for 12 h. The reaction mixture was filtrated over a plug of Celite®, washed with ethanol and concentrated. Yield: 490 mg colorless oil.

reactant | 4-[2-(Benzyloxycarbonyl-methyl-amino)-acetyl]-piperazine-1-carboxylic acid ethyl ester | 830 mg | C(C)OC(=O)N1CCN(CC1)C(CN(C)C(=O)OCC1=CC=CC=C1)=O | C18H25N3O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(2-Methylamino-acetyl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C(CNC)=O | C10H19N3O3
